US08492549B2
[1-(2,3-Dihydro-benzo[1,4]dioxin-2-ylmethyl)-pyrrolidin-3-yl]-methanol
To a solution containing 130 mg (0.45 mmol) of 1-(2,3-dihydro-benzo[1,4]dioxin-2-ylmethyl)-5-oxo-pyrrolidine-3-carboxylic acid methyl ester in dry tetrahydrofuran (4 mL) was added 68 mg (1.79 mmol) of LiAlH4. The reaction mixture was stirred at room temperature for 2½ h, and subsequently refluxed for 2 h. After the reaction mixture was cooled to room temperature, it was quenched with water and 1 M NaOH. The solution was filtered through celite and the filtrate was evaporated to dryness. Purification by column chromatography (silica gel, triethylamine/ethyl acetate, 1:99) afforded the title compound.

reactant | 1-(2,3-dihydro-benzo[1,4]dioxin-2-ylmethyl)-5-oxo-pyrrolidine-3-carboxylic acid methyl ester | 0.45 mmol, 130 mg | COC(=O)C1CN(C(C1)=O)CC1COC2=C(O1)C=CC=C2 | C15H17NO5
reactant | LiAlH4 | 1.79 mmol, 68 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
product | [1-(2,3-Dihydro-benzo[1,4]dioxin-2-ylmethyl)-pyrrolidin-3-yl]-methanol | O1C(COC2=C1C=CC=C2)CN2CC(CC2)CO | C14H19NO3
